US06265426B1
3-[1,3]Dioxolan-2-yl-benzoic acid methyl ester
A solution of 3-formyl-benzoic acid methyl ester (9.48 g, 57.8 mmol), ethylene glycol (8.97 g, 144.5 mmol, 2.5 eq.) and conc. sulfuric acid (0.18 g, 1.8 mmol) in toluene was heated under Dean-Stark reflux for 3 hrs. After cooling, satd. NaHCO3 (100 ml) was added. The aqueous phase was extracted with EtOAc, the combined organic phases were dried over Na2SO4 and evaporated to afford the title compound (12.1 g, 101% yield) as a yellow liquid. MS: m/e=164 (M+).

reactant | 3-formyl-benzoic acid methyl ester | 57.8 mmol, 9.48 g | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | ethylene glycol | 144.5 mmol, 8.97 g, 2.5 eq. | C(CO)O | C2H6O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | 1.8 mmol, 0.18 g | S(O)(O)(=O)=O | H2O4S
product | 3-[1,3]Dioxolan-2-yl-benzoic acid methyl ester | 12.1 g, 101% yield | COC(C1=CC(=CC=C1)C1OCCO1)=O | C11H12O4
